US07956069B2
The preparation of (3aR,7aS)-1-[1′-(2-methylbenzoyl)-1,4′-bipiperidin-4-yl]octahydro-2H-indol-2-one
To a solution of (3aR,7aS)-1-piperidin-4-yloctahydro-2H-indol-2-one hydrochloride (70 mg, 0.27 mmol) in MeOH (4 mL) was added sodium methoxide (62 μl, 0.27 mmol) followed by 1-(2-methylbenzoyl)piperidin-4-one (60 mg, 0.27 mmol) and the mixture stirred at room temperature for 10 minutes. A solution containing sodium cyanoborohydride (28 mg, 0.41 mmol) and zinc chloride (18 mg, 0.13 mmol) in MeOH (1 mL) was then added and the mixture stirred at room temperature overnight. The reaction was quenched with water and solvents were removed under reduced pressure. The mixture was diluted in dichloromethane (30 mL) and 1N NaOH (7 mL) was added. The phases were separated and aqueous phase was extracted with dichloromethane (2×20 mL). The combined organic phases were dried and concentrated in vacuo. The crude compound was purified by high pH prep LCMS (40-60%) to provide the title compound as a white solid (37 mg, 37%). 1H NMR (400 MHz, CHLOROFORM-D): δ ppm 1.12-1.41 (m, 5H), 1.42-1.54 (m, 1H), 1.54-1.70 (m, 4H), 1.70-1.99 (m, 7H), 2.11-2.39 (m, 4H), 2.23 (s, 3H), 2.39-2.55 (m, 1H), 2.72 (t, J=12.50 Hz, 1H), 2.78-3.07 (m, 4H), 3.48 (d, J=12.11 Hz, 1H), 3.83-4.01 (m, 1H), 4.80 (d, J=12.50 Hz, 1H), 7.01-7.28 (m, 4H). MS (M+1): 424.2

reactant | (3aR,7aS)-1-piperidin-4-yloctahydro-2H-indol-2-one hydrochloride | 0.27 mmol, 70 mg | Cl.N1CCC(CC1)N1C(C[C@H]2CCCC[C@H]12)=O
reactant | sodium methoxide | 0.27 mmol, 62 μl | C[O-].[Na+]
reactant | 1-(2-methylbenzoyl)piperidin-4-one | 0.27 mmol, 60 mg | CC1=C(C(=O)N2CCC(CC2)=O)C=CC=C1 | C13H15NO2
reactant | sodium cyanoborohydride | 0.41 mmol, 28 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 4 mL | CO | CH4O
solvent | MeOH | 1 mL | CO | CH4O
catalyst | zinc chloride | 0.13 mmol, 18 mg | [Cl-].[Zn+2].[Cl-]
product | (3aR,7aS)-1-[1′-(2-methylbenzoyl)-1,4′-bipiperidin-4-yl]octahydro-2H-indol-2-one | 37 mg, 37% | CC1=C(C(=O)N2CCC(CC2)N2CCC(CC2)N2C(C[C@H]3CCCC[C@H]23)=O)C=CC=C1 | C26H37N3O2
